US04883747
Synthesis of 1,1,2-tricyano-2-(3,4,5-trimethoxyphenyl)ethane (Leuco form of Compound 55)
To a suspension of 1,1-dicyano-2-(3,4,5-trimethoxyphenyl) ethene (8.5 g, 0.035 moles) in boiling ethanol (150 ml), sodium cyanide (1.77 g, 0.0351 moles) was added dropwise from a pipette. A dark solution formed which was additioned with distilled water (500 ml) and acidified with glacial acetic acid (to pH 2) at room temperature. No precipitate formed. With stirring, water (20 ml) was added, consequently precipitating out dirty white crystals. The crystals were filtered, washed repeatedly with water (500 ml) and dried in a vacuum oven. The product was recrystallised from ethanol.

reactant | 1,1-dicyano-2-(3,4,5-trimethoxyphenyl) ethene | 0.035 moles, 8.5 g | C(#N)C(=CC1=CC(=C(C(=C1)OC)OC)OC)C#N | C13H12N2O3
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | sodium cyanide | 0.0351 moles, 1.77 g | [C-]#N.[Na+]
solvent | water | 20 ml | O | H2O
solvent | acetic acid | pH 2 | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 1,1,2-tricyano-2-(3,4,5-trimethoxyphenyl)ethane | C(#N)C(C(C1=CC(=C(C(=C1)OC)OC)OC)C#N)C#N | C14H13N3O3
